US05312840
c. Synthesis of N,N' Bistolyl-2-imino-imidazolidine
N,N' Bistolyl ethylene diamine (105.8 mg, 0.44 mmol) was taken up in EtOH (3 mL) to provide a light purple solution. This solution was then placed in a one-necked round-bottom flask (25 mL) equipped with magnetic stirbar and reflux condenser. To this solution, cyanogen bromide (50 mg, 0.47 mmol) in ethanol (2 mL) was added in a single portion. The resultant reaction mixture was stirred for 1 h. It was noted that the solution turned clear. The solution was then brought to reflux and maintained at that temperature for 16 h. The reflux condenser was then removed, allowing the solvent to evaporate. The reaction mixture was then fused at 150° C. for 30 min to provide a brown solid. This solid was immediately taken up in ethanol (4 mL) and placed into a centrifuge tube. To this solution 1N NaOH was added (8 mL) to provide a "whispy" tan precipitate. After several failed attempts to pellet the precipitate, the solution was simply extracted with chloroform (20 mL). The chloroform was concentrated to dryness to provide a clear oil (108.1 mg, 92.6%).

reactant | N,N' Bistolyl ethylene diamine | 0.44 mmol, 105.8 mg | C1(=C(C=CC=C1)NCCNC1=C(C=CC=C1)C)C | C16H20N2
reactant | cyanogen bromide | 0.47 mmol, 50 mg | N#CBr | CBrN
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N,N' Bistolyl-2-imino-imidazolidine | 108.1 mg, 92.6% | C1(=C(C=CC=C1)N1C(N(CC1)C1=C(C=CC=C1)C)=N)C | C17H19N3
